US05866684
A solution of 3.2 g (8.1 mmol) of N-[(9-fluorenyl)methoxycarbonyl]-3-(2-methylphenyl)-L-alanine and 2.17 g (6.75 mmol) of 2-(1 H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate in 22 ml of dimethylformamide was added to the resin from paragraph viii) and subsequently 1.5 ml (13.5 mmol) of N-methylmorpholine were added. The mixture was agitated for 30 minutes andthen the resin was drained and washed five times with 30 ml of dimethylformamide, twice with 30 ml of dichloromethane, twice with 30 ml of ethyl acetate and twice with 30 ml of diethyl ether. After drying therewere obtained 8.95 g of 5-[4-[[N-[N-[N-[(9-fluorenyl)methoxycarbonyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]-N-[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propyl]amino]methyl]-3,5-dimethoxyphenoxy]-N-(4-methyl-α-(RS)-phenylbenzyl)valeramide-polystyrene conjugate as a pale brown solid (0.31 mmol/g loading estimated by quantitation of dibenzofulvene at 301 nm).

reactant | N-[(9-fluorenyl)methoxycarbonyl]-3-(2-methylphenyl)-L-alanine | 8.1 mmol, 3.2 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)O | C25H23NO4
reactant | 2-(1 H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 6.75 mmol, 2.17 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 13.5 mmol, 1.5 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | dibenzofulvene | C=C1C2=CC=CC=C2C3=CC=CC=C13 | C14H10
